US05037822
1-[4-(Diethylamino)benzenesulphonyl]-2-pyrrolidinethione
A mixture comprising 9 g of 1-[4-(diethylamino)benzenesulphonyl]-2-pyrrolidinone, prepared as in Example 2 of the European Patent published under No. 0,033,578, and 6.15 g of Lawesson reagent (or 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulphide) in 180 cm3 of toluene is heated to reflux for 1 hour. The mixture is allowed to return to room temperature and is evaporated to dryness, the residue is taken up in 200 cm3 of chloroform and the resulting mixture is dried, filtered on celite and evaporated to dryness. 3.6 g of crude product (m.p. 170°-180° C.) are recovered, which product is chromatographed on silica (eluant: ethyl acetate/n-hexane, 2:1) and the residue is then crystallized in ethanol. 2.4 g of expected product are obtained. M.p. 183°-184° C.

reactant | 1-[4-(diethylamino)benzenesulphonyl]-2-pyrrolidinone | 9 g | C(C)N(C1=CC=C(C=C1)S(=O)(=O)N1C(CCC1)=O)CC | C14H20N2O3S
reactant | Lawesson reagent | 6.15 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulphide | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | toluene | 180 cm3 | C1(=CC=CC=C1)C | C7H8
product | 1-[4-(Diethylamino)benzenesulphonyl]-2-pyrrolidinethione | 2.4 g | C(C)N(C1=CC=C(C=C1)S(=O)(=O)N1C(CCC1)=S)CC | C14H20N2O2S2
